US08183289B2
To a stirred solution of diisopropylamine in 2 ml of THF at −78° C. was added n-butyl lithium (0.61 ml). The reaction was stirred for 30 minutes after which time a solution of tert-butyl 2-(3-cyano-4-fluorophenyl)acetate (0.300 g) in THF (2 ml) was added dropwise over 20 minutes at −78° C. The reaction was warmed to 0° C. and then transferred a flask containing 2 ml THF and MeI (0.080 ml). The reaction was acidified with 2M HCl and extracted with ethyl acetate. The combined organics were then washed with brine and dried over MgSO4. The concentrated product was purified by silica gel chromatography using a solvent system of 5% to 50% ethyl acetate/hexanes to provide tert-butyl 2-(3-cyano-4-fluorophenyl)propanoate (0.140 g).

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.61 ml | C(CCC)[Li]
reactant | tert-butyl 2-(3-cyano-4-fluorophenyl)acetate | 0.300 g | C(#N)C=1C=C(C=CC1F)CC(=O)OC(C)(C)C | C13H14FNO2
reactant | MeI | 0.080 ml | CI | CH3I
reactant | HCl | 2M | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-(3-cyano-4-fluorophenyl)propanoate | 0.140 g | C(#N)C=1C=C(C=CC1F)C(C(=O)OC(C)(C)C)C | C14H16FNO2
